US09238631B2
d) Di-tert-butyl (5S)-2-(4-{[2-(benzvloxy)ethyl]amino}benzyl)-5-[(tert-butoxycarbonyl)amino]hexanedioate
Di-tert-butyl (5S)-2-(4-aminobenzyl)-5-[(tert-butoxycarbonyl)amino]hexanedioate (670 mg, 1.40 mmol) was dissolved in 1,2-dichloroethane (10 ml) and benzyloxyacetaldehyde (210 mg, 1.40 mmol) and sodium triacetoxyborohydride (415 mg, 1.96 mmol) were added. The mixture was stirred at room temperature for 4 h and than poured on 10 ml 1N aqueous sodium hydrogen carbonate solution. The aqueous phase was extracted with dichloromethane (2×10 ml) and the organic phases were washed with water (30 ml), dried over magnesium sulfate and concentrated in vacuo. Flash chromatography on silica gel (hexane, ethyl acetate) gave the product as slightly yellow oil (853 mg, 99%).

reactant | Di-tert-butyl (5S)-2-(4-aminobenzyl)-5-[(tert-butoxycarbonyl)amino]hexanedioate | 1.40 mmol, 670 mg | NC1=CC=C(CC(C(=O)OC(C)(C)C)CC[C@@H](C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)C=C1 | C26H42N2O6
reactant | benzyloxyacetaldehyde | 1.40 mmol, 210 mg | C(C1=CC=CC=C1)OCC=O | C9H10O2
reactant | sodium triacetoxyborohydride | 1.96 mmol, 415 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | 1N, 10 ml | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | Di-tert-butyl (5S)-2-(4-{[2-(benzvloxy)ethyl]amino}benzyl)-5-[(tert-butoxycarbonyl)amino]hexanedioate | 853 mg, 99% | C(C1=CC=CC=C1)OCCNC1=CC=C(CC(C(=O)OC(C)(C)C)CC[C@@H](C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)C=C1 | C35H52N2O7
